US07384934B2
(S)-2-Chloro-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine
Combine 2-chloro-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride (0.840 g, 3.0 mmol), (S)-2-(2-methoxy-ethyl)-piperazine (0.865 g, 6.0 mmol), N,N-diisopropylethylamine (0.53 mL, 3.0 mmol), DMSO (1.25 ml), and toluene (5.0 ml) and stir and heat the mixture at 110° C. After 46 hours, cool the mixture to ambient temperature and dilute with ethyl acetate. Wash the organic layer with 0.1N NaOH and brine, dry (sodium sulfate) and concentrate the organic layer to 0.985 g of the crude product. Silica gel chromatography, eluting with dichloromethane/methanol (90:10) gives 0.501 g of the title compound as a yellow foam: mass spectrum (ion spray): m/z=371 (M+1).

reactant | 2-chloro-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 3.0 mmol, 0.840 g | Cl.ClC1=CC2=C(NC3=C(N=C2N)C=CC=C3)C=C1
reactant | (S)-2-(2-methoxy-ethyl)-piperazine | 6.0 mmol, 0.865 g | COCC[C@@H]1NCCNC1 | C7H16N2O
reactant | N,N-diisopropylethylamine | 3.0 mmol, 0.53 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMSO | 1.25 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2-Chloro-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 0.501 g | ClC1=CC2=C(NC3=C(N=C2N2C[C@@H](NCC2)CCOC)C=CC=C3)C=C1 | C20H23ClN4O
